US07732626B2
Optically Active Form of Methyl(6-methoxy-2,3-dihydro-1-benzofuran-3-yl)acetate
To a mixture of (1,5-cyclooctadiene)rhodium trifluoromethanesulfonate (12 mg) and (R,R)-Me-BPE (6.5 mg) was added methanol (2.5 mL) sufficiently substituted by argon gas, and the mixture was stirred at room temperature for 15 min. This was added to methyl(6-methoxy-1-benzofuran-3-yl)acetate (55 mg), and the mixture was stirred at 70° C. for 3 hr under 0.7 MPa hydrogen atmosphere. The reaction mixture was quantified by HPLC. As a result, the enantiomeric excess was 52.8%, and the yield was 24.3%.

reactant | (R,R)-Me-BPE | 6.5 mg | C[C@@H]1CC[C@H](P1CCP2[C@@H](CC[C@H]2C)C)C | C14H28P2
reactant | methyl(6-methoxy-1-benzofuran-3-yl)acetate | 55 mg | COC(CC1=COC2=C1C=CC(=C2)OC)=O | C12H12O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 2.5 mL | CO | CH4O
product | Methyl(6-methoxy-2,3-dihydro-1-benzofuran-3-yl)acetate | yield was 24.3% | COC(CC1COC2=C1C=CC(=C2)OC)=O | C12H14O4
